datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"NC(=O)C[C@H](NC(=O)[C@H](CS)[NH2:10])C(=O)O.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>NC(=O)C[C@H](NC(=O)[C@H](CS)[NH2+:10][H:20])C(=O)O.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCCCC[N+:21](CCCCCCC)(c1ccccc1)[H:20].c1nc2c(c[n:10]1)NCCN2>>CCCCCCC[N:21](CCCCCCC)c1ccccc1.c1nc2c(c[n+:10]1[H:20])NCCN2 10=20;20,21=21",
"NCC[NH:10]CCCO.O=[Se](c1ccc2ccccc2c1)[O:21][H:20]>>NCC[NH+:10](CCCO)[H:20].O=[Se](c1ccc2ccccc2c1)[O-:21] 10=20;20,21=21",
"CC(CC1CCCCC1)[NH2:10].c1c[nH]c(C[S:21][H:20])n1>>CC(CC1CCCCC1)[NH2+:10][H:20].c1c[nH]c(C[S-:21])n1 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=CC([N+](=O)[O-])=C2)[H:20])=C1.[OH-:10]>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=CC([N+](=O)[O-])=C2)=C1.[OH:10][H:20] 10=20;20,21=21",
"CC(=O)c1cc(F)cc(C(=O)Nc2nnn[nH]2)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(=O)c1cc(F)cc(C(=O)Nc2nnn[nH]2)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CN1C2CCC(C2)[N+:21]1(C)[H:20].Cc1ccc2c(c1)sc(c1ccc([N:10](C)C)cc1)[n+]2C>>CN1C2CCC(C2)[N:21]1C.Cc1ccc2c(c1)sc(c1ccc([N+:10](C)(C)[H:20])cc1)[n+]2C 10=20;20,21=21",
"Cl/C(=N/[O:21][H:20])c1ccccc1.S=C1[N-]c2ncncc2[N-:10]1>>Cl/C(=N/[O-:21])c1ccccc1.S=C1[N-]c2ncncc2[N:10]1[H:20] 10=20;20,21=21",
"CCCCCC/C=N/[O-:10].NC[C@@H](O)[C@H]1NC(N)=[N+:21]([H:20])[C@@H]1C(=O)[O-]>>CCCCCC/C=N/[O:10][H:20].NC[C@@H](O)[C@H]1NC(N)=[N:21][C@@H]1C(=O)[O-] 10=20;20,21=21",
"C1CNCC[NH:10]CCN1.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>C1CNCC[NH+:10]([H:20])CCN1.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CCCCCCCCC[NH:10]Cc1ccc(C)cc1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCCCCCCCC[NH+:10](Cc1ccc(C)cc1)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CCCCCCCC[NH:10]Cc1ccc(C)cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCCCCCC[NH+:10](Cc1ccc(C)cc1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCOc1ccc2c3c1O[C@H]1[C@@H](O)C=C[C@H]4[C@@H](C2)[N+:21](C)([H:20])CC[C@@]341.CN1C=CC(=[O:10])c2ccccc21>>CCOc1ccc2c3c1O[C@H]1[C@@H](O)C=C[C@H]4[C@@H](C2)[N:21](C)CC[C@@]341.CN1C=CC(=[O+:10][H:20])c2ccccc21 10=20;20,21=21",
"COc1ccc(Cl)c2ccc[n+:21]([H:20])c12.Nc1ncnc2c1ncn2[C@H]1O[C@@H](CO)[C@H]([O-:10])[C@@H]1O>>COc1ccc(Cl)c2ccc[n:21]c12.Nc1ncnc2c1ncn2[C@H]1O[C@@H](CO)[C@H]([O:10][H:20])[C@@H]1O 10=20;20,21=21",
"CCCn1nn[n:10]c1N.N#Cc1ccccc1[NH2+:21][H:20]>>CCCn1nn[n+:10]([H:20])c1N.N#Cc1ccccc1[NH2:21] 10=20;20,21=21",
"CCCCOc1cccc(C(=O)[O-:10])c1.O=C(c1ccccc1)n1c[n+:21]([H:20])c2ccccc21>>CCCCOc1cccc(C(=O)[O:10][H:20])c1.O=C(c1ccccc1)n1c[n:21]c2ccccc21 10=20;20,21=21",
"CN(C)c1sc(-c2ccccc2)c[n+:21]1[H:20].O=[N+]([O-])c1nc(Oc2ccccc2)[n-:10]n1>>CN(C)c1sc(-c2ccccc2)c[n:21]1.O=[N+]([O-])c1nc(Oc2ccccc2)[n:10]([H:20])n1 10=20;20,21=21",
"C1CCN(CCC[N:10]2CCCC2)C1.CC(=O)N(C)[O:21][H:20]>>C1CCN(CCC[N+:10]2([H:20])CCCC2)C1.CC(=O)N(C)[O-:21] 10=20;20,21=21",
"CCSC(C)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)[H:20])C=C1>>CCSC(C)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)C=C1 10=20;20,21=21",
"CCP(=O)(CC)[O:21][H:20].NC(=NO)/C(N)=[N:10]\O>>CCP(=O)(CC)[O-:21].NC(=NO)/C(N)=[N+:10](\O)[H:20] 10=20;20,21=21",
"C#CC(C)(C)[N+:21](C)(C(C)(C)C#C)[H:20].[O-]c1nc([S-:10])c2[nH]cnc2n1>>C#CC(C)(C)[N:21](C)C(C)(C)C#C.[O-]c1nc([S:10][H:20])c2[nH]cnc2n1 10=20;20,21=21",
"COc1ccc2c3c([nH]c2c1)C(C)=[N:10]CC3.O=C(CCc1ccc([N+](=O)[O-])cc1)[O:21][H:20]>>COc1ccc2c3c([nH]c2c1)C(C)=[N+:10]([H:20])CC3.O=C(CCc1ccc([N+](=O)[O-])cc1)[O-:21] 10=20;20,21=21",
"CC(C)[NH+:21](CC(=O)c1ccc([O-])cc1)[H:20].[O-]c1ccccc1[O-:10]>>CC(C)[NH:21]CC(=O)c1ccc([O-])cc1.[O-]c1ccccc1[O:10][H:20] 10=20;20,21=21",
"CCCNc1nc[n:10]c2c1cnn2C.C[N+:21](C)(O)[H:20]>>CCCNc1nc[n+:10]([H:20])c2c1cnn2C.C[N:21](C)O 10=20;20,21=21",
"COC1=CC=C2[C@@H]3Cc4ccc(OC)c5c4[C@]2(CC[N+:21]3(C)[H:20])[C@@H]1O5.O=C(O)c1csc[n:10]1>>COC1=CC=C2[C@@H]3Cc4ccc(OC)c5c4[C@]2(CC[N:21]3C)[C@@H]1O5.O=C(O)c1csc[n+:10]1[H:20] 10=20;20,21=21",
"CCOC(=O)COc1ccc(Cc2ccc([O-:10])c(C[NH3+])c2)c(Cl)c1Cl.CCc1cc(Cl)c([O:21][H:20])c(C(=O)NCC2CCC[NH+]2CC)c1OC>>CCOC(=O)COc1ccc(Cc2ccc([O:10][H:20])c(C[NH3+])c2)c(Cl)c1Cl.CCc1cc(Cl)c([O-:21])c(C(=O)NCC2CCC[NH+]2CC)c1OC 10=20;20,21=21",
"Cc1cccc2[nH]c[n+:21]([H:20])c12.O=C(CSC(c1ccccc1)(c1ccccc1)c1ccccc1)[O-:10]>>Cc1cccc2[nH]c[n:21]c12.O=C(CSC(c1ccccc1)(c1ccccc1)c1ccccc1)[O:10][H:20] 10=20;20,21=21",
"CC=C(Cl)C(=O)[O-:10].c1[nH]c(Cc2c[n+:21]([H:20])c[nH]2)c[nH+]1>>CC=C(Cl)C(=O)[O:10][H:20].c1[nH]c(Cc2c[n:21]c[nH]2)c[nH+]1 10=20;20,21=21",
"Cc1ccc([O-:10])c(Cc2cc(C)cc([N+](=O)[O-])c2[O-])c1.O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>Cc1ccc([O:10][H:20])c(Cc2cc(C)cc([N+](=O)[O-])c2[O-])c1.O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"CC[N+:21](CC)(CCSCC(C)C)[H:20].S=C(N1CCCC1)[S-:10]>>CC[N:21](CC)CCSCC(C)C.S=C(N1CCCC1)[S:10][H:20] 10=20;20,21=21",
"CCOC(=O)C(CC(C)C)[NH2+:21][H:20].CC[N:10](CC)CCO>>CCOC(=O)C(CC(C)C)[NH2:21].CC[N+:10](CC)(CCO)[H:20] 10=20;20,21=21",
